US07994171B2
2-(4-fluorophenyl)-5-(4-methoxy-2-methyl-5-(1-(1-methyl-1H-pyrazol-3-yl)cyclopropylcarbamoyl)phenyl)-N-methylbenzofuran-3-carboxamide.
To a mixture of 5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxy-4-methylbenzoic acid (0.15 g, 0.35 mmol, 1 eq), 1-(1-methyl-1H-pyrazol-3-yl)cyclopropanamine (0.058 g, 0.42 mmol, 1.2 eq), HOBT (0.08 g, 0.069 mmol, 1.7 eq), EDC.HCl (0.073 g, 0.014 mmol, 1.8 eq), in DCM at ambient temperature under nitrogen was added Diisopropylehtylamine (0.297 g, 2.2 mmol, 5.0 eq). The clear mixture was stirred at ambient temperature for 12 h. The mixture was concentrated, diluted with water and extracted with EtOAc. The organic layer is further washed with water, dried over sodium sulphate and concentrated. The product obtained was further purified by column chromatography (neutral alumina) using 0.5% Methanol/DCM and the final purification was done by preparative HPLC. Yield: 0.06 g (45%)1H NMR (400 MHz, DMSO-d6): δ 1.18-1.20 (m, 4H), 2.29 (s, 3H), 2.81-2.82 (d, 3H, J=4.64 Hz), 3.73 (s, 3H), 3.96 (s, 3H), 6.06-6.07 (d, 1 H, J=2.4 Hz), 7.12 (s, 1H), 7.32-7.34 (dd, 1H, J=8.4, 1.6 Hz), 7.38-7.42 (t, 2H, J=8.8 Hz), 7.48-7.49 (d, 2H, J=2.34 Hz), 7.59 (s, 1H), 7.71-7.73 (d, 1H, J=8.4 Hz), 7.97-7.97-8.01 (m, 2H), 8.47-8.48 (d, 1H, J=4.8 Hz), 8.69 (s, 1H). LCMS: (ES+) m/z=553.2 (M+H).: Column-Ascentis Express C18 (5×2.1 mm-2.7 μm) Mphase A: 2% MeCN-98% H2O-10 mM NH4COOH Mphase B: 98% MeCN-2% H2O-10 mM NH4COOH Flow: 1 mL/Min

reactant | 5-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-2-methoxy-4-methylbenzoic acid | 0.35 mmol, 0.15 g, 1 eq | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C(=CC(=C(C(=O)O)C2)OC)C | C25H20FNO5
reactant | 1-(1-methyl-1H-pyrazol-3-yl)cyclopropanamine | 0.42 mmol, 0.058 g, 1.2 eq | CN1N=C(C=C1)C1(CC1)N | C7H11N3
reactant | HOBT | 0.069 mmol, 0.08 g, 1.7 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 0.014 mmol, 0.073 g, 1.8 eq | CCN=C=NCCCN(C)C.Cl
reactant | Diisopropylehtylamine | 2.2 mmol, 0.297 g, 5.0 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(4-fluorophenyl)-5-(4-methoxy-2-methyl-5-(1-(1-methyl-1H-pyrazol-3-yl)cyclopropylcarbamoyl)phenyl)-N-methylbenzofuran-3-carboxamide | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=C(C=C(C(=C2)C(NC2(CC2)C2=NN(C=C2)C)=O)OC)C | C32H29FN4O4
